US07612075B2
A. 5-Chloro-2-methyl-indole-1-carboxylic acid tert-butyl ester.
A solution containing 5-chloro-2-methylindole (4.0 g, 24.1 mmol) and DMAP (295 mg, 2.42 mmol) in anhydrous THF (100 mL) is cooled to 0° C. A solution containing (Boc)2O (5.27 g, 24.1 mmol) in anhydrous THF (100 mL) is then added over a 20 min period. The reaction mixture is stirred for 2 h at 0° C. and then at ambient temperature for 16 hours. The reaction mixture is concentrated and the crude residue is purified by flash silica gel chromatography (2% EtOAc/hexane to 5% EtOAc/hexane) to provide 5.2 g (81%) of title compound as a pale yellow solid. 1H NMR (300 MHz, CDCl3) δ1.67 (s, 9H), 2.57 (s, 3H), 6.24 (t, J=0.9 Hz, 1H), 7.16 (dd, J=8.8, 2.1 Hz, 1H), 7.38 (d, J=2.1 Hz, 1H), 8.01 (d, J=8.8 Hz, 1H) ppm; MS (EI): m/z 265 (M+).

reactant | 5-chloro-2-methylindole | 24.1 mmol, 4.0 g | ClC=1C=C2C=C(NC2=CC1)C | C9H8ClN
reactant | (Boc)2O | 24.1 mmol, 5.27 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | DMAP | 2.42 mmol, 295 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 5-Chloro-2-methyl-indole-1-carboxylic acid tert-butyl ester | 5.2 g, 81% | C(C)(C)(C)OC(=O)N1C(=CC2=CC(=CC=C12)Cl)C | C14H16ClNO2
